US06020329
(h) 4-Methoxybenzyl (6R,7R)-3-[(2R,5S)-5-methoxycarbonyltetrahydrofuran-2-yl]-7-[2-(Z)-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylate
A stirred solution of 2-(Z)methoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid hydrochloride (148mg) and N,N-diisopropylethylamine (0.107ml) in dimethylformamide (1ml) was cooled to -55 to -60° C. and methanesulphonyl chloride (0.024ml) was added. The mixture was stirred at the same temperature for 0.5h and then a solution of 4-methoxybenzyl (6R,7R)-7-amino-3-[(2R,5S)-5-methoxy-carbonyltetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (126mg) in dimethylformamide (1ml) was added followed by pyridine (0.023ml). The mixture was then stirred at 0° C. for 1h and then at room temperature for 0.5h. The mixture was partitioned between ethyl acetate and aqueous citric acid solution, and the organic phase was washed with water, then brine, dried over magnesium sulphate and evaporated. The title compound (100mg) was isolated by column chromatography of the residue (silica gel, 3:7 hexane:ethyl acetate as eluent); vmax (CHCl3) 3403, 1786, 1732 and 1681cm-1 ; δH (CDCl3) 1.66-2.36 (4H, m), 3.58 (1H, d, J 18.0Hz), 3.73 (3H, s), 3.81 (3H, s), 4.02 (1H, d, J 18.0Hz), 4.08 (3H, s), 4.53 (1H, dd, J 3.34, 8.91Hz), 5.02 (1H, d, J 4.8Hz), 5.18 (1H, d, J 11.8Hz), 5.24 (1H, d, J 12.0Hz), 5.30 (1H, dd, J 5.7, 9.9Hz), 5.86 (1H, dd, J 4.6, 8.6Hz), 6.72-6.83 (2H, m), 6.89 (2H, d, J 8.54Hz), 7.01 (1H, s) and 7.25-7.4 (17H, m).

reactant | 2-(Z)methoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid hydrochloride | 148mg | Cl.CO\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | N,N-diisopropylethylamine | 0.107ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulphonyl chloride | 0.024ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-methoxybenzyl (6R,7R)-7-amino-3-[(2R,5S)-5-methoxy-carbonyltetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 126mg | N[C@H]1[C@@H]2N(C(=C(CS2)[C@@H]2O[C@@H](CC2=C=O)OC)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C21H22N2O7S
solvent | dimethylformamide | 1ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1ml | CN(C=O)C | C3H7NO
solvent | pyridine | 0.023ml | N1=CC=CC=C1 | C5H5N
product | 4-Methoxybenzyl (6R,7R)-3-[(2R,5S)-5-methoxycarbonyltetrahydrofuran-2-yl]-7-[2-(Z)-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylate | 100mg | COC(=O)[C@@H]1CC[C@@H](O1)C=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C([C@H]2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OC)=O)=O | C46H43N5O9S2
